US06395733B1
4-(6-Chloro-2,3-dihydro-indol-1-yl)-pyrido[3,4-d ]pyrimidine
4-Chloropyrido[3,4-d]pyrimidine (0.10 g, 0.60 mmol), 6-chloroindoline (0.10 g, 0.66 mmol) and pyridine (0.14 g, 1.81 mmol) were combined in DMF (1 mL) and heated at 70° C. for 3 hours. The reaction was cooled to room temperature and then added to methylene chloride (150 mL). The organic layer was washed with saturated sodium carbonate and water and then dried over sodium sulfate. The solvent was removed by rotary evaporation and the residue purified by column chromatography (silica gel, 9/2/1—CH2Cl2/hexanes/methanol) to give the title product as a pale yellow residue (0.048 g, 28%). MP 194-6° C.; LCMS: 283 (MH+).

reactant | 4-Chloropyrido[3,4-d]pyrimidine | 0.60 mmol, 0.10 g | ClC=1C2=C(N=CN1)C=NC=C2 | C7H4ClN3
reactant | 6-chloroindoline | 0.66 mmol, 0.10 g | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | pyridine | 1.81 mmol, 0.14 g | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-pyrido[3,4-d ]pyrimidine | ClC1=CC=C2CCN(C2=C1)C=1C2=C(N=CN1)C=NC=C2 | C15H11ClN4
